US08304419B2
Step I: 3-chloro-N-{[4-chloro-2-fluoro-3-(1-naphthalenyloxy)phenyl]methyl}-1H-pyrrole-2-carboxamide
HATU (0.113 g, 0.298 mmol) was added to a solution of {[4-chloro-2-fluoro-3-(1-naphthalenyloxy)phenyl]methyl}amine (0.060 g, 0.199 mmol) and 3-chloro-1H-pyrrole-2-carboxylic acid (0.0289 g, 0.199 mmol) nd diisopropylethylamine (0.052 mL, 0.298 mmol) and diisopropylethylamine (0.052 mL, 0.298 mmol) in DMF (1 mL). The mixture was stirred at room temperature for 1 hr. The reaction mixture was extracted with ethyl acetate and water. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated. The residue was purified by reverse phase HPLC (acetonitrile:water with 0.1% TFA) to give the title compound (0.018 g, 21%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.80 (br. s., 1H), 8.29-8.40 (m, 1H), 7.91-8.04 (m, 2H), 7.57-7.69 (m, 3H), 7.51 (dd, 1H), 7.35 (t, 2H), 6.93 (t, 1H), 6.52 (d, 1H), 6.19 (t, 1H), 4.54 (d, 2H). ES MS: m/z 429 (M+1).

reactant | HATU | 0.298 mmol, 0.113 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | {[4-chloro-2-fluoro-3-(1-naphthalenyloxy)phenyl]methyl}amine | 0.199 mmol, 0.060 g | ClC1=C(C(=C(C=C1)CN)F)OC1=CC=CC2=CC=CC=C12 | C17H13ClFNO
reactant | 3-chloro-1H-pyrrole-2-carboxylic acid | 0.199 mmol, 0.052 mL, 0.0289 g | ClC1=C(NC=C1)C(=O)O | C5H4ClNO2
reactant | diisopropylethylamine | 0.298 mmol, 0.052 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-N-{[4-chloro-2-fluoro-3-(1-naphthalenyloxy)phenyl]methyl}-1H-pyrrole-2-carboxamide | 0.018 g, 21% | ClC1=C(NC=C1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC=CC2=CC=CC=C12)F | C22H15Cl2FN2O2
